data/mechanism_extracts/GreenChem/10.1039_D3GC05126A.json
{"doi": "10.1039_D3GC05126A", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical epoxidation of alkenes using water as the oxygen source, catalyzed by a sterically hindered manganese porphyrin (TMP)MnCl under non-halide-mediated conditions", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic single-electron oxidation of (TMP)Mn(III)-OH to (TMP)Mn(IV)=O, which either undergoes a second anodic SET or disproportionates to generate the active [(TMP)Mn(V)=O]+ oxidant; protons are reduced to H2 at the Pt cathode", "key_intermediates": [{"name": "(TMP)Mn(III)(OH) resting/active catalyst formed with pyridine and H2O", "smiles": null, "role": "resting_state"}, {"name": "(TMP)Mn(IV)=O generated by single-electron anodic oxidation", "smiles": null, "role": "transient"}, {"name": "[(TMP)Mn(V)=O]+ key oxo-transfer intermediate", "smiles": null, "role": "reactive"}, {"name": "epoxide product via O-atom transfer to alkene", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, (TMP)Mn(III)-OH is oxidized by SET to (TMP)Mn(IV)=O; a second SET (or disproportionation of two Mn(IV)=O units) generates [(TMP)Mn(V)=O]+, which transfers its oxygen atom to the alkene to give the epoxide and regenerate (TMP)Mn(III)-OH, while H2O supplies the oxygen and protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Generation of [(TMP)Mn(V)=O]+ via the second single-electron anodic oxidation / disproportionation of (TMP)Mn(IV)=O", "probe_reagents": [{"name": "H2-18O isotope labeling", "smiles": null, "purpose": "isotope_label", "observation": "18O incorporated into styrene oxide (2a'), confirming water as the oxygen source rather than O2"}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Reaction proceeds under N2, ruling out molecular oxygen as the O source"}, {"name": "Cyclic voltammetry of (TMP)MnCl", "smiles": null, "purpose": "redox_probe", "observation": "Two redox peaks at 0.67 and 0.9 V vs Fc/Fc+ assigned to Mn(III)/Mn(IV) and Mn(IV)/Mn(V); reversible Mn(III)/Mn(IV) peak indicates stable tetravalent intermediate"}, {"name": "Constant potential electrolysis at 0.75 V vs Fc/Fc+", "smiles": null, "purpose": "intermediate_trap", "observation": "Styrene epoxidation gave 2a in 87% GC yield with 87% Faradaic efficiency despite potential being insufficient to oxidize Mn(IV)=O to Mn(V)=O directly, supporting disproportionation pathway"}], "evidence_types_used": ["H/D_labeling", "cyclic_voltammetry", "product_isotope_distribution", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Two parallel pathways are proposed for forming [(TMP)Mn(V)=O]+: (a) two consecutive anodic SETs on (TMP)Mn(III)(OH), and (b) anodic oxidation of (TMP)Mn(III)(OH) to (TMP)Mn(IV)=O followed by disproportionation into (TMP)Mn(III)(OH) + [(TMP)Mn(V)=O]+; the constant-potential experiment at 0.75 V favors the disproportionation route. The use of bulky TMP ligand is critical to enable SET-based generation of Mn(V)=O rather than the typically observed unproductive electrophilic chlorination or radical-type pathways associated with Mn(IV)=O from salen catalysts; pyridine acts as an axial ligand/base."}
